US07504517B2
Preparation of 1-(R)-(4-methoxyphenyl)-N1-[2-(4-methoxyphenyl)ethyl]ethane-1,2-diamine:
A solution of 2-(R)-(4-methoxyphenyl)-2-[2-(4-methoxyphenyl)-acetylamino]-acetamide (316 g, 0.96 mol) in THF (2 L) is heated to 35° C. and borane dimethyl sulfide (428 mL, 4.28 mol) is added over approximately 1 hour after which the reaction is heated to reflux for 18 hours. After cooling the reaction solution to 8° C. sufficient 3N HCl (approx. 400 mL) is added until the pH of the solution is approximately 1. The reaction solution is then heated to reflux for 1 hour. The reaction is then cooled and the pH adjusted to 8 by the slow addition of 25% aqueous NaOH (300 mL). The entire reaction solution is poured into a vessel containing a mixture of CH2Cl2 (3 L) and water (1.5 L). The organic layer is decanted and the water layer treated with CH2Cl2 (1.5 L). The organic layers are combined, washed with brine (2.5 L) then dried over Na2SO4. The solvent in removed in vacuo to afford 302 g (quantitative yield) of the desired product as an amber colored oil.

reactant | 2-(R)-(4-methoxyphenyl)-2-[2-(4-methoxyphenyl)-acetylamino]-acetamide | 0.96 mol, 316 g | COC1=CC=C(C=C1)[C@H](C(=O)N)NC(CC1=CC=C(C=C1)OC)=O | C18H20N2O4
reactant | borane dimethyl sulfide | 4.28 mol, 428 mL | CSC.B
reactant | HCl | 3N, approx. 400 mL | Cl | ClH
reactant | NaOH | 300 mL | [OH-].[Na+]
solvent | THF | 2 L | C1CCOC1 | C4H8O
solvent | water | 1.5 L | O | H2O
solvent | CH2Cl2 | 3 L | C(Cl)Cl | CH2Cl2
product | 1-(R)-(4-methoxyphenyl)-N1-[2-(4-methoxyphenyl)ethyl]ethane-1,2-diamine | 302 g, quantitative yield | COC1=CC=C(C=C1)[C@H](CN)NCCC1=CC=C(C=C1)OC | C18H24N2O2
